US04416872
Primaquine Encapsulated in Negative Liposomes
Primaquine diphosphate solution was used for swelling DDPC/Ch/DCP mixture into liposomes, and the resulting liposomes were washed by centrifugation, and then suspended in a volume of saline four times of that used in swelling the vesicles. The concentration of drug was equivalent to 25 mg/kg primaquine diphosphate for 35 g mice when 0.1 ml was injected, or 376 mg/kg for 0.15 ml, or 50 mg/kg for 0.2 ml.

reactant | Primaquine diphosphate | CC(CCCN)NC1=C2C(=CC(=C1)OC)C=CC=N2.OP(=O)(O)O.OP(=O)(O)O
reactant | DDPC | CCCCCCCCCCCCCC(=O)NCC(COP(=O)([O-])OCC[N+](C)(C)C)NC(=O)CCCCCCCCCCCCC | C36H74N3O6P
product | Primaquine | CC(CCCN)NC1=CC(=CC2=C1N=CC=C2)OC | C15H21N3O
